US08183380B2
Imidazole-1-sulfonic acid cyclopropylmethyl-methyl-amide was prepared in accordance with step A of the general method described in example 76 from cyclopropylmethyl-methylamine and 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate; MS: m/e=216.5 (M+H+).

reactant | cyclopropylmethyl-methylamine | C1(CC1)CNC | C5H11N
reactant | 3-(1H-imidazol-1-ylsulfonyl)-1-methyl-1H-imidazolium trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.N1(C=NC=C1)S(=O)(=O)N1C[NH+](C=C1)C
product | Imidazole-1-sulfonic acid cyclopropylmethyl-methyl-amide | C1(CC1)CN(S(=O)(=O)N1C=NC=C1)C | C8H13N3O2S
